US05096908
A. 2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene.
Alternatively, to the 8-bromo-2-dipropylamino-3,4-dihydronaphthalene (44.4 mMol) in tetrahydrofuran (100 ml) was added sodium cyano-borohydride (2.86 gm, 45.5 mMol) and the suspension was saturated with hydrogen chloride. After stirring for four hours the reaction mixture was poured into 15% aqueous sodium hydroxide (500 ml) and was stirred an additional two hours. This mixture was extracted with diethyl ether, and the ether extracts were combined, washed with water, washed with saturated aqueous sodium chloride, dried (Na2SO4) and concentrated in vacuo to give the crude title compound as a light orange oil. Purification by basic alumina chromatography (dichloromethane) gave the product as a light yellow oil (7.8 gm, 57%).

reactant | 8-bromo-2-dipropylamino-3,4-dihydronaphthalene | 44.4 mMol | BrC=1C=CC=C2CCC(=CC12)N(CCC)CCC | C16H22BrN
reactant | sodium cyano-borohydride | 45.5 mMol, 2.86 gm | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Di-n-propylamino-8-bromo-1,2,3,4-tetrahydronaphthalene | 7.8 gm, 57% | C(CC)N(C1CC2=C(C=CC=C2CC1)Br)CCC | C16H24BrN
